US08980933B2
30) N-Methyl-3-chloroindol-5-carbaldehyde 7e′
N-Methylindol-5-carbaldehyde (400 mg, 2.5 mmol) was dissolved in dry acetonitrile (10 mL) and treated with N-chlorosuccinimide (400 mg, 3.02 mmol), whereupon the solution turned red. The reaction mixture was stirred at room temperature for 20 h. The solvent was removed in vacuum and the residue was purified by column chromatography (silica gel 60). Yield: 300 mg (1.55 mmol, 62%); colorless solid of mp 109° C.; Rf=0.27 (ethyl acetate/n-hexane 1:4); νmax (ATR)/cm−1 3103, 2845, 2751, 1680, 1602, 1454, 1414, 1362, 1343, 1274, 1238, 1196, 1160, 1134, 1111, 981, 894, 796, 717; 1H NMR (300 MHz, CDCl3) δ 3.75 (3H, s), 7.07 (1H, s), 7.32 (1H, d, J=8.6 Hz), 7.76 (1H, dd, J=8.6 Hz, J=1.5 Hz), 8.07 (1H, d, J=1.5 Hz), 10.01 (1H, s); 13C NMR (75.5 MHz, CDCl3) δ 32.9, 106.3, 109.9, 122.0, 123.3, 125.2, 126.9, 129.2, 138.5, 191.7; m/z (EI) 193 (100) [M+], 164 (57), 128 (43), 101 (48), 87 (28).

reactant | N-Methylindol-5-carbaldehyde | 2.5 mmol, 400 mg | CN1C=CC2=CC(=CC=C12)C=O | C10H9NO
reactant | N-chlorosuccinimide | 3.02 mmol, 400 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-Methyl-3-chloroindol-5-carbaldehyde | CN1C=C(C2=CC(=CC=C12)C=O)Cl | C10H8ClNO
